US07417040B2
To a 3-neck 250 mL round bottom flask equipped with a mechanical stirrer and charged with anhydrous aluminum chloride (16.6 gm, 0.125 mole) was added indanone (6.6 gm, 0.05 mole) in-two portions over 3 minutes. The reaction mixture was stirred for 10 minutes before bromine (9.7 g, 0.06 mole) was added dropwise over 10 minutes. The reaction mixture was heated to 80° C. for 5 minutes. The resulting mixture was poured into a mixture of ice (100 g) and concentrated HCl (20 mL). The resulting mixture was extracted with ether. The ether layer was separated, washed with water, dried (Na2SO4), filtered and concentrated. The crude material was purified by flash chromatography over silica gel eluting with 15% ether/hexanes to afford 6-Bromo-indan-1-one(2.0g, 19%). 1HNMR(CDCl3) δ 7.81 (d, 1H, J=1.76 Hz),7.62 (dd, 1H, J=8.36, 2.20 Hz), 7.30 (d, 1H, J=8.30 Hz), 3.03 (t, 2H, J=6.16 Hz), 2.65 (t, 2H, J=6.20 Hz). HPLC Rt=3.09 min.

reactant | aluminum chloride | 0.125 mole, 16.6 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | indanone | 0.05 mole, 6.6 gm | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | bromine | 0.06 mole, 9.7 g | BrBr | Br2
solvent | HCl | 20 mL | Cl | ClH
product | 6-Bromo-indan-1-one | 2.0g, 19% | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
